US06369110B1
5-Phenyl-3-methylpentanoic acid (0.10 g, 0.52 mmol) was added to polyphosphoric acid (7 g), and the resulting mixture was stirred at 70° C. for 1 hour. Water was added to the reaction mixture, followed by extraction with ethyl acetate, and the extract solution was washed with water, a saturated aqueous sodium hydrogencarbonate solution and a saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain 0.07 g of 7-methyl-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one.

reactant | 5-Phenyl-3-methylpentanoic acid | 0.52 mmol, 0.10 g | C1(=CC=CC=C1)CCC(CC(=O)O)C | C12H16O2
solvent | Water | O | H2O
product | 7-methyl-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one | 0.07 g | CC1CC(C2=C(CC1)C=CC=C2)=O | C12H14O
